US05034530
Ethyl imidazo[1,5-a]quinoxaline-3-carboxylate.
M.p. 195°-196° C., from 2-quinoxalinol and ethyl isocyanoacetate. (Compound 2)

reactant | 2-quinoxalinol | N1=C(C=NC2=CC=CC=C12)O | C8H6N2O
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
product | Ethyl imidazo[1,5-a]quinoxaline-3-carboxylate | C1=NC(=C2N1C1=CC=CC=C1N=C2)C(=O)OCC | C13H11N3O2
